US05378716
Methyl 3-(3-cyanopropyl)phenoxyacetate
A mixture of potassium cyanide (1.16 g), 18-crown-6 (236 mg) and acetonitrile (18 ml) was stirred for 15 min under an atmosphere of argon. A mixture of methyl 3-(3-hydroxypropyl)phenoxyacetate (2.0 g) and tributylphosphine (1.99 g)in acetonitrile (10 ml) was added to the reaction mixture, followed by the dropwise addition of a solution of carbon tetrachloride (0.95 ml) in an acetonitrile (10 ml) with cooling in ice bath. The mixture was stirred overnight at room temperature. The mixture was diluted with ether and washed with aqueous 10% citric acid. After the addition of carbon tetrachloride (10 ml), the mixture was washed with water and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate, and evaporated. The reside was purified by silica gel column chromatography (ethyl acetate:n-hexane=9:1) to give the title compound (1.47 g) having the following physical data.

reactant | potassium cyanide | 1.16 g | [C-]#N.[K+]
reactant | 18-crown-6 | 236 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | methyl 3-(3-hydroxypropyl)phenoxyacetate | 2.0 g | OCCCC=1C=C(OCC(=O)OC)C=CC1 | C12H16O4
reactant | tributylphosphine | 1.99 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
solvent | carbon tetrachloride | 0.95 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 3-(3-cyanopropyl)phenoxyacetate | 1.47 g | C(#N)CCCC=1C=C(OCC(=O)OC)C=CC1 | C13H15NO3
